US06930120B2
2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-p-tolyloxy-propionic acid
The representative procedure (B) was utilized to prepare the title compound from 3-(4-hydroxyphenyl)-2-methyl-2-p-tolyloxypropionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3) δ 10.0 (bs, 1H), 7.59 (dd, 1H, J=3.8, 1.2 Hz), 7.36 (dd, 1H, J=5.0, 1.2 Hz), 7.19 (d, 2H, J=8.4 Hz), 7.05 (dd, 1H, J=5.0, 3.8 Hz), 7.02 (d, 2H, J=8.0 Hz), 6.83-6.80 (m, 4H), 4.17 (t, 2H, J=6.4 Hz), 3.29 and 3.14 (d of Abq, 2H, J=13.8 Hz), 2.96 (t, 2H, J=6.4 Hz), 2.35 (s, 3H), 2.27 (s, 3H), 1.38 (s, 3H). IR (KBr) 3420, 1715, 1509, 1225 cm−1. HRMS (ES+) m/z exact mass calcd for C27H28NO5S 478.1688, found 478.1714.

reactant | 3-(4-hydroxyphenyl)-2-methyl-2-p-tolyloxypropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=C(C=C1)C)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-p-tolyloxy-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC=CC1)OC1=CC=C(C=C1)C | C27H27NO5S
